US07423177B2
The mesylate of N,N-diethylaminopropanol (6 mmol), prepared as described in Example 18 above, was mixed with 3-butyramidophenol (5.0 mmol), and K2CO3 (10 mmol) in anhydrous DMF (10 mL) and the reaction is performed following general procedure B. The crude product is purified using silica gel column chromatography 5% MeOH/DCM as eluent to yield 3-(N,N-diethylaminopropoxy)butyranilide (1.3 g).

reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | N,N-diethylaminopropanol | 6 mmol | C(C)N(CC)C(CC)O | C7H17NO
reactant | 3-butyramidophenol | 5.0 mmol | C(CCC)(=O)NC=1C=C(C=CC1)O | C10H13NO2
reactant | K2CO3 | 10 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(N,N-diethylaminopropoxy)butyranilide | 1.3 g | C(C)N(CC)CCCOC(CC(=O)NC1=CC=CC=C1)C | C17H28N2O2
